US07750003B2
1-[4-[4-(Hydroxymethyl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]-3-(1,2-oxazol-3-yl)urea
[2-Chloro-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-4-yl]methanol (500 mg) was dissolved in an 18% DMF in a mixture of 7:3:2 DME:water:ethanol (10 mL). 3-(1,2-Oxazol-3-yl)-1-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]urea (811 mg) and 2M aqueous sodium carbonate solution (4 mL) were then added to the solution and the resultant mixture degassed for 5 min. Dichlorobis(triphenylphosphine) palladium catalyst (73 mg) was added and the solution refluxed at 90° C. for 7 h under nitrogen atmosphere. The reaction was allowed to cool then neutralised with concentrated hydrochloric acid and loaded directly onto a SCX-2 column (50 g), the column was washed with methanol and the product eluted with 7N ammonia in methanol. The material was further purified by chromatography on silica, eluting with 5% methanol in DCM, to give the desired material (318 mg) as a white solid.

reactant | [2-Chloro-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-4-yl]methanol | 500 mg | ClC1=NC(=CC(=N1)CO)N1[C@H](COCC1)C | C10H14ClN3O2
reactant | water | O | H2O
reactant | 3-(1,2-Oxazol-3-yl)-1-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]urea | 811 mg | O1N=C(C=C1)NC(NC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C16H20BN3O4
reactant | sodium carbonate | 2M, 4 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DME | COCCOC | C4H10O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 1-[4-[4-(Hydroxymethyl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]-3-(1,2-oxazol-3-yl)urea | 318 mg | OCC1=NC(=NC(=C1)N1[C@H](COCC1)C)C1=CC=C(C=C1)NC(=O)NC1=NOC=C1 | C20H22N6O4
